US07053107B2
N-(4-Hydroxy-but-2-ynyl)-2-[3-(pyrrol-1-yliminomethyl)-1H-indazol-6-ylamino]-benzamide
Prepared in a similar manner to that described for Example 11, in U.S. Pat. No. 6,534,524, issued Mar. 18, 2003, herein incorporated by reference in its entirety for all purposes, except that N-[4-(tert-Butyl-dimethyl-silanyloxy)-but-2-ynyl]-2-[3-(pyrrol-1-yliminomethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzamide was used instead of N-methyl-N-{3-styryl-1-[2-trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-benzene-1,3-diamine. 1H NMR (DMSO-d6) δ 13.30 (1H, s), 9.87 (1H, .s 9.04 (1H, t, J=5.3 Hz), 8.99 (1H, s), 8.19 (1H, d, J=8.5 Hz), 7.70 (1H, d, J=7.3 Hz), 7.46 (4H, m), 7.31 (1H, s), 7.08 (1H, dd, J=1.7, 8.7 Hz), 6.91 (1H, t, J=7.3 Hz), 6.21 (2H, t, J=2.1 Hz), 5.14 (1H, t, J=5.8 Hz), 4.10 (2H, d, J=5.5 Hz), 4.06 (2H, d, J=5.8 Hz). Anal. Calcd for C23H20N6O2. 0.35Hexanes. 0.20 H2O: C, 67.45; H, 5.86; N, 18.81. Found: C, 67.70; H, 5.73; N, 18.56.

reactant | N-[4-(tert-Butyl-dimethyl-silanyloxy)-but-2-ynyl]-2-[3-(pyrrol-1-yliminomethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzamide | C(C)(C)(C)[Si](OCC#CCNC(C1=C(C=CC=C1)NC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=NN1C=CC=C1)=O)(C)C | C35H48N6O3Si2
reactant | benzene-1,3-diamine | C1(=CC(=CC=C1)N)N | C6H8N2
solvent | H2O | O | H2O
product | N-(4-Hydroxy-but-2-ynyl)-2-[3-(pyrrol-1-yliminomethyl)-1H-indazol-6-ylamino]-benzamide | OCC#CCNC(C1=C(C=CC=C1)NC1=CC=C2C(=NNC2=C1)C=NN1C=CC=C1)=O | C23H20N6O2
